US07312249B2
g. Preparation of Dimethyl 4-[3-[4-(3,3-dimethyl-2-oxobutoxy)-3-ethylphenyl]propyl}phthalate
800 mg (2.2 mmol) of dimethyl 4-[3-(3-ethyl-4-hydroxyphenyl)propyl}phthalate are dissolved in 40 ml of 2-butanone. 340 mg (2.5 mmol) of potassium carbonate and 330 μl (2.5 mmol) of 1-bromopinacolone are added. The reaction medium is heated under reflux for 8 hours, and is then filtered on celite. The residue obtained is purified by chromatography on a silica column (eluent ethyl acetate 20/heptane 80). A colorless oil is obtained (m=920 mg; y=90%).

reactant | dimethyl 4-[3-(3-ethyl-4-hydroxyphenyl)propyl}phthalate | 2.2 mmol, 800 mg | C(C)C=1C=C(C=CC1O)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C21H24O5
reactant | potassium carbonate | 2.5 mmol, 340 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopinacolone | 2.5 mmol, 330 μl | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | 2-butanone | 40 ml | CC(CC)=O | C4H8O
product | Dimethyl 4-[3-[4-(3,3-dimethyl-2-oxobutoxy)-3-ethylphenyl]propyl}phthalate | CC(C(COC1=C(C=C(C=C1)CCCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)CC)=O)(C)C | C27H34O6
